US06030984
8-(Biphenyl-4-yl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid bis-(2-methoxy-ethyl)-amide
From 8-(biphenyl-4-yl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid with SOCl2 in toluene. Then treatment with triethylamine and bis(2-methoxyethyl)amine in dichloromethane.

reactant | 8-(biphenyl-4-yl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | C1(=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)O)SC=C3)=O)C3=CC=CC=C3 | C24H15NO3S
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | bis(2-methoxyethyl)amine | COCCNCCOC | C6H15NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-(Biphenyl-4-yl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid bis-(2-methoxy-ethyl)-amide | COCCN(C(=O)C=1C=C(C(N2C=CC3=C(C12)SC=C3)=O)C3=CC=C(C=C3)C3=CC=CC=C3)CCOC | C30H28N2O4S
